Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male with h/o HFpEF (EF 50-55% in ___ 
presenting for dyspnea. Patient has had a few days of worsening 
shortness of breath. Has had dry cough documented in ___, which 
has since been intermittently productive of yellow sputum, and 
was attributed to lisinopril (discontinued) and volume 
overloaded (Lasix was increased at last clinic appointment to 
60mg BID). Patient describes that his cough/sputum production 
became progressively worse over the last few days, and was 
associated with fatigue and dyspnea on exertion (though reports 
that this is at baseline and did not progress). Patient 
presented to his PCP appointment, and was noted to be hypoxic 
with oxygen saturation 88% on room air. Patient was sent to the 
ED for further evaluation. 

In the ED initial vitals were: 98.6 88 116/73 24 88% RA

Labs/studies notable for: 
WBC >12  diff with 74%PMN
proBNP 173
UA negative
CXR with ?left lingual opacity with superimposed pulmonary 
edema. 

Patient was given: IV Lasix 60 x 1 and started on vanc/zosyn for 
presumed CHF exacerbation and PNA. 

Vitals on transfer: 60 129/68 18 92% Nasal Cannula 

On the floor patient endorses fatigue and ongoing productive 
cough. No SOB, CP, palpitations, PND, orthopnea. No fevers, 
chills, urinary symptoms.
 
Past Medical History:
HEMORRHOIDS
KNEE PAIN
DEMENTIA
VENOUS INSUFFICIENCY
CONGESTIVE HEART FAILURE HFpEF
CHRONIC OBSTRUCTIVE PULMONARY DISEASE
SHINGLES
NEUROSYPHILIS
Dupuytren's contracture, bilat
PPD POSITIVE
DEEP VENOUS THROMBOPHLEBITIS
HIP FRACTURE
CATARACTS
 
Social History:
___
Family History:
His father had cardiovascular disease, died at young age.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS: 97.9 137/80 70 18 95%RA
Weight: 84.3kg 
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate. HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva 
were pink, no pallor or cyanosis of the oral mucosa. No 
xanthelasma. 
NECK: Supple with JVP of 7 cm.
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: bibasilar crackles, diminished at left base
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: 1+ pitting edema to mid shins bilaterally
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

DISCHARGE PHYSICAL EXAM
Vitals: Tmax 99.5, 114-123/65-82, 57-68, ___, 93% on 1L.
I/O: Net negative ~1.5 liters over last 30 hours.
General: Well-appearing, sitting up in bed in NAD  
HEENT: NCAT, no scleral icterus, small 1-2mm slowly reactive 
pupils
NECK: Supple, no JVD appreciated.  
CARDIAC: RRR, normal S1, S2. Patient continued to breathe loudly 
during exam. 
LUNGS: Faint crackles in lower lung bases bilaterally, improved 
from yesterday. Upper fields clear to auscultation bilaterally.
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e.  

 
Pertinent Results:
ADMISSION LABS
==============
___ 10:38AM   UREA N-20 CREAT-1.2 SODIUM-139 POTASSIUM-4.3 
CHLORIDE-101 TOTAL CO2-25 ANION GAP-17
___ 12:30PM   ___ PTT-34.6 ___
___ 12:30PM   PLT COUNT-208
___ 12:30PM   NEUTS-74.3* LYMPHS-12.7* MONOS-11.7 EOS-0.3* 
BASOS-0.5 IM ___ AbsNeut-9.18*# AbsLymp-1.57 AbsMono-1.44* 
AbsEos-0.04 AbsBaso-0.06
___ 12:30PM   WBC-12.4*# RBC-4.89 HGB-14.9 HCT-46.3 MCV-95 
MCH-30.5 MCHC-32.2 RDW-13.1 RDWSD-44.7
___ 12:30PM   proBNP-173
___ 12:30PM   GLUCOSE-84 UREA N-21* CREAT-1.1 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-98 TOTAL CO2-20* ANION GAP-23*
___ 12:55PM   O2 SAT-70
___ 12:55PM   LACTATE-1.9
___ 12:55PM   ___ PO2-44* PCO2-42 PH-7.38 TOTAL CO2-26 
BASE XS-0 INTUBATED-NOT INTUBA COMMENTS-PERIPHERAL
___ 02:43PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:43PM URINE  COLOR-Straw APPEAR-Clear SP ___

DISCHARGE LABS
==============
___ 06:42AM BLOOD Glucose-88 UreaN-21* Creat-0.9 Na-134 
K-4.2 Cl-99 HCO3-24 AnGap-15
___ 06:55AM BLOOD Calcium-9.9 Phos-3.5 Mg-2.5

RADIOLOGY
=========
___ Imaging CHEST (PA & LAT)
FINDINGS:
Lung volumes are low.  There is increased opacity at the left 
lung lingula. There is no pneumothorax or pleural effusion.  
Cardiac silhouette is difficult to evaluate due to low lung 
volumes and left lung base opacity.  Increased interstitial 
markings throughout compatible with pulmonary edema.
IMPRESSION:
1. Increased opacity at the left lung lingula is atelectasis 
versus pneumonia.
2. Superimposed pulmonary edema.

___ Imaging CHEST (PORTABLE AP)
IMPRESSION:
Heart size is upper limits of normal and stable.  There is again 
seen patchy airspace opacities bilaterally more confluent at the 
lung bases. There is likely a superimposed element of pulmonary 
edema which has improved.  There are no pneumothoraces.

 
Brief Hospital Course:
___ male with h/o HFpEF (EF 50-55% in ___, DVT in 
___ on rivaroxaban, and COPD who presented with acute on 
subacute dyspnea, found to have community acquired pneumonia and 
treated initially broadly and narrowed to cefpodoxime for 
klebsiella (completed a ___.

#Chronic Diastolic Heart Failure:
The patient was initially admitted to the cardiology service 
with concern for volume overload. He received 60 IV Lasix in the 
ED. Upon arrival to the floor, he was not volume overloaded on 
exam, at his dry weight, BNP lower than prior, and had focal 
lung findings suggestive of pneumonia rather than CHF. His 
diuretics were held on ___. He was restarted on his home 
diuretics on ___ but because of continued O2 requirements was 
given 40mg IV Lasix ___ and ___ with improvement in his O2 
requirement. On discharge, he weighed 183 lbs(Dry weight 
185-188).

#Hypoxemia - likely secondary from CHF and pneumonia. Pt has 
underlying COPD. O2 requirements decreased from treatments 
above. However he desaturated to 85% while ambulating. Patient 
will be discharged with oxygen. He can use ___ at home with 
activity. O2 can be weaned as tolerated. 

# Pneumonia:
The patient presented with acute on subacute dyspnea, cough, 
leukocytosis and CXR with likely consolidation. He was initially 
started on Vancomycin and Zosyn in the ED, but was narrowed to 
Ceftriaxone and Azithromycin for CAP coverage. He had an initial 
oxygen requirement on 5 lpm on NC. Sputum culture grew pan 
sensitive klebsiella and he was narrowed to cefpodoxime. 
Completed 7 day course of community acquired pneumonia. 

# HTN:
Continued current regimen

# Hx of SVT: complicated by flash pulm edema in ___. 
Rate was controlled. Continued home beta blocker.

# Hx of DVT:
Continued rivaroxaban.

#Hemorrhoids:
Continued rectal cream.

TRANSITIONAL:
- Consider repeat chest imaging in ___ weeks for radiographic 
resolution of pneumonia
- Restarting Lasix 40mg BID on discharge
- Patient should have chem 7 checked at next visit

# CODE: Full for now ("if you think it will help, do it, 
otherwise, let me go")
# CONTACT: HCP: ___ (daughter/HCP) ___
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Finasteride 5 mg PO DAILY 
2. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
3. Hydrocortisone (Rectal) 2.5% Cream ___AILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. amLODIPine 5 mg PO DAILY 
7. Rivaroxaban 20 mg PO DAILY 
8. Furosemide 60 mg PO BID 
9. Mupirocin Ointment 2% 1 Appl TP DAILY 
10. Potassium Chloride 40 mEq PO DAILY 
11. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  GuaiFENesin 10 mL PO Q6H 
RX *guaifenesin 100 mg/5 mL 10 mL by mouth Q6H prn Refills:*0 
2.  Senna 8.6 mg PO BID constipation 
RX *sennosides [senna] 8.6 mg 1 pill by mouth twice daily Disp 
#*30 Tablet Refills:*0 
3.  Furosemide 40 mg PO BID 
RX *furosemide 40 mg 1 tablet(s) by mouth twice daily Disp #*60 
Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
5.  amLODIPine 5 mg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  Finasteride 5 mg PO DAILY  
8.  Hydrocortisone (Rectal) 2.5% Cream ___AILY  
9.  Metoprolol Succinate XL 25 mg PO DAILY  
10.  Mupirocin Ointment 2% 1 Appl TP DAILY  
11.  Potassium Chloride 40 mEq PO DAILY  
12.  Rivaroxaban 20 mg PO DAILY  
13.  Tamsulosin 0.4 mg PO QHS  
14.Home Oxygen
Pneumonia J15.0 and COPD with acute exacerbation  J44.1. Patient 
O2 sat of 81% while walking on room air. Please provide ___ 
oxygen and titrate to O2 sat >88%

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
- Community acquired pneumonia
- Acute on Chronic heart failure with preserved ejection 
fraction

Secondary Diagnosis
- Pulmonary Edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. 

WHY WERE YOU ADMITTED?
- You had difficulty breathing and low oxygen level.

WHY WAS THE CAUSE?
- You were diagnosed with pneumonia, an infection of the lungs.
- We treated you with antibiotics.
- We also gave you some medications to remove extra water from 
the body to help with breathing.

WHAT SHOULD YOU DO AFTER DISCHARGE?
- Please continue your oral antibiotics as prescribed.
- Please take all your other medications as listed in this 
packet.
- Please weigh yourself daily in the morning, after you go to 
the bathroom, before getting dressed. If your weight goes up by 
more than 3 lbs in 1 day or 5 lbs in 1 week, please call your 
doctor. Discharge weight 183 lbs. 
It was a pleasure taking care of you!

Sincerely,
Your ___ Healthcare Team
 
Followup Instructions:
___